US09290517B2
Step E: 2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[4,5-c]pyridine
To a stirring solution of 6-chloro-2-(methylsulfonyl)-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[4,5-c]pyridine (100 mgs, 0.276 mmol) and (3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-ol (72.0 mg, 0.276 mmol) in anhydrous DMF (2.3 mL) was added diazabicyclo[5.4.0]undec-7-ene (DBU, 0.06 mL, 0.42 mmol). The reaction was stirred under N2 at RT for 20 h, then evaporated under reduced pressure. Flash chromatography of the resulting residue utilizing a 24 g silica RediSep Rf® Gold column and employing a 0-90% EtOAc/hexane gradient afforded the title compound. LC-MS: calculated for C24H40ClN3O5Si2 541.22 observed m/e: 542.08 (M+H)+ (Rt 1.74/2.0 min)

reactant | 6-chloro-2-(methylsulfonyl)-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[4,5-c]pyridine | 0.276 mmol, 100 mgs | ClC1=CC2=C(C=N1)N(C(=N2)S(=O)(=O)C)COCC[Si](C)(C)C | C13H20ClN3O3SSi
reactant | (3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-ol | 0.276 mmol, 72.0 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2O | C12H24O4Si
reactant | diazabicyclo[5.4.0]undec-7-ene | 0.42 mmol, 0.06 mL | N12NCCCCC2=CCCC1 | C9H16N2
solvent | DMF | 2.3 mL | CN(C)C=O | C3H7NO
product | 2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[4,5-c]pyridine | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC1=C(C=NC(=C1)Cl)N2COCC[Si](C)(C)C | C24H40ClN3O5Si2
